US06028223
A solution of 3-amino-3-(2-thienyl)propanoic acid (0.5 g) [prepared substituting a molar equivalent amount of 2-thiophene-carboxaldehyde in Example 57, Step A] in methanol (50 ml) was treated with 4N HCl/dioxane (10 ml). After 6 hours the excess solvent was removed under reduced pressure to give a waxy solid. Treatment with Et2O/CH3CN produced methyl β-aminothiophene-2-propanoate (370 mg) as a white powder. MS and 1H-NMR were consistent with the desired product.

reactant | 3-amino-3-(2-thienyl)propanoic acid | 0.5 g | NC(CC(=O)O)C=1SC=CC1 | C7H9NO2S
reactant | 2-thiophene-carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
reactant | Et2O CH3CN | CCOCC.CC#N
solvent | methanol | 50 ml | CO | CH4O
product | methyl β-aminothiophene-2-propanoate | 370 mg | NC(CC(=O)OC)C=1SC=CC1 | C8H11NO2S
